US06060508
20 g (105.7 mmol) of 2-bromothiophenol, 19 g (137.5 mmol) of potassium carbonate, 27.8 g (165.5 mmol) of potassium iodide, 200 ml of dimethylformamide and 14.68 g (158.6 mmol) of chloroacetone are introduced into a 500 ml three-necked flask. The mixture is stirred for 2 hours at room temperature and is then poured into 800 ml of water. Extraction is carried out with ethyl acetate (3×400 ml). The organic phases are combined, washed with a molar sodium hydroxide solution (2×400 ml), dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a silica column (elution solution: 10% ethyl acetate in cyclohexane). 24.1 g (Yield: 93%) of (2-bromothiophenoxy)acetone are obtained (yellow oil).

reactant | 2-bromothiophenol | 105.7 mmol, 20 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | potassium carbonate | 137.5 mmol, 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 165.5 mmol, 27.8 g | [I-].[K+]
reactant | chloroacetone | 158.6 mmol, 14.68 g | ClCC(C)=O | C3H5ClO
solvent | water | 800 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (2-bromothiophenoxy)acetone | 24.1 g, Yield: 93% | BrC1=C(SCC(C)=O)C=CC=C1 | C9H9BrOS
